US06413765B1
Leu.
Lactate dehydrogenase was measured by monitoring the oxidation of NADH at 340 nm in a reaction mixture with the following composition: 50 mM Tris-acetate buffer (pH 6), 0.5 mM fructose-1,6-diphosphate, 25 mM pyruvate and 0.5 mM NADH.

reactant | Lactate | C(C(O)C)(=O)[O-]
reactant | NADH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | fructose-1,6-diphosphate | 0.5 mM | C([C@@H]1[C@H]([C@@H]([C@@](O1)(COP(=O)(O)O)O)O)O)OP(=O)(O)O | C6H14O12P2
reactant | pyruvate | 25 mM | C(C(=O)C)(=O)[O-]
reactant | NADH | 0.5 mM | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
product | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
